US04518597
6-(4-Phenylmercapto-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 5 from 6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-phenylmercaptobutylbromide (B.p. 0.03 mb : 95°-104° C.).

reactant | 6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one | OC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C10H11NO3
reactant | 4-phenylmercaptobutylbromide | C1(=CC=CC=C1)SCCCCBr | C10H13BrS
product | 6-(4-Phenylmercapto-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | C1(=CC=CC=C1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C20H23NO3S
